US07700644B2
3-(3,4-Dimethoxy-phenyl)-7-hydroxy-8-methylchromen-4-one (94.8 g) was suspended in acetic anhydride (450 mL) under a nitrogen atmosphere. Pyridine (23 mL) was added and the reaction mixture was heated to reflux for 1 hour. The pot was cooled overnight at −18° C. to produce a crystalline solid within the reaction mixture. This was filtered and the solid was washed with the filtrate and additional water (500 mL) to yield a brown solid. Further washing with ethanol produced a white crystalline solid. The solid was dried overnight in a desiccator to yield 7-acetoxy-3-(3,4-dimethoxyphenyl)-8-methylchromen-4-one (44.7 g, 42%).

reactant | 3-(3,4-Dimethoxy-phenyl)-7-hydroxy-8-methylchromen-4-one | 94.8 g | COC=1C=C(C=CC1OC)C1=COC2=C(C(=CC=C2C1=O)O)C | C18H16O5
reactant | Pyridine | 23 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 450 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 7-acetoxy-3-(3,4-dimethoxyphenyl)-8-methylchromen-4-one | 44.7 g, 42% | C(C)(=O)OC1=CC=C2C(C(=COC2=C1C)C1=CC(=C(C=C1)OC)OC)=O | C20H18O6
